US06433203B1
31 mL of BuLi 2.5 M in hexane (76 mmol) were added dropwise to a solution of 4,7-dimethylindene (10.00 g, 69 mmol) in THF (30 mL) at −78° C. and stirred for 1 hour at the same temperature and another hour at ambient temperature. This mixture was added to a solution of 1,3-dibromopropane (3.92 mL, 38.6 mmol) in THF at −78° C. through an addition funnel over a period of 1.5 hours. The orange mixture was stirred at −78° C. for 2 hours, allowed to slowly warm to room temperature and kept at ambient temperature overnight (16 h). The reddish-brown mixture was quenched with water (50 mL). The aqueous layer was extracted with Et2O (5×100 mL). All organic layers were combined, washed with water (50 mL) and then brine (50 mL), and then dried over anhydrous MgSO4. Concentration of the organic layer by rotary evaporator yielded 13.07 g of crude product, with a GC purity of 80% (theoretical yield based on 4,7-dimethylindene: 11.33 g; GC yield 92%). Kugelrohr distillation (130-170° C./0.2 mmHg) yielded 8.04 g (71%) of 1,3-bis(4,7-dimethyl-1-indenyl)propane. Spectroscopically pure compound was obtained through re-crystallisation from MeOH. NMR (CDCl3, δ, ppm): 1.20-1.50 (m, 4H), 2.04-2.2 (m, 2H), 2.34 (s, 6H) (s, 6H), 3.50 (br d, J=9.01 Hz, 2H), 6.49 (br d, J=5.64 Hz, 2H), 6.85-6.87 (m, 4H), 6.95 (br d, J=7.63 Hz, 2H).

reactant | BuLi | 2.5 M, 31 mL | [Li]CCCC
reactant | hexane | 76 mmol | CCCCCC | C6H14
reactant | 4,7-dimethylindene | 69 mmol, 10.00 g | CC1=C2C=CCC2=C(C=C1)C | C11H12
reactant | 1,3-dibromopropane | 38.6 mmol, 3.92 mL | BrCCCBr | C3H6Br2
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | 1,3-bis(4,7-dimethyl-1-indenyl)propane | 8.04 g, 71% | CC1=C2C=CC(C2=C(C=C1)C)CCCC1C=CC2=C(C=CC(=C12)C)C | C25H28
